US06596719B1
According to the procedure described in Example 4a) 100 mg 4-tert.-butyl-N-[6-(3-aminopropoxy)-5-(o-methoxyphenoxy)-2-pyrimidinyl-4-pyrimidinyl]-benzene-sulfonamide was reacted with 2-thiophenesulfonylchloride to give 50 mg 4-tert.-butyl-N-[6-(3-(2-thiophenesulfonylamino)-propoxy)-5-(o-methoxyphenoxy)-2-pyrimidinyl-4-pyrimidinyl]-benzene-sulfonamide. LC-MS: tR=5.63 min, [M+1]+711.28, [M−1]−=709.36.

reactant | 4-tert.-butyl-N-[6-(3-aminopropoxy)-5-(o-methoxyphenoxy)-2-pyrimidinyl-4-pyrimidinyl]-benzene-sulfonamide | 100 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCCN)C1=NC=CC=N1 | C28H32N6O5S
reactant | 2-thiophenesulfonylchloride | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | 4-tert.-butyl-N-[6-(3-(2-thiophenesulfonylamino)-propoxy)-5-(o-methoxyphenoxy)-2-pyrimidinyl-4-pyrimidinyl]-benzene-sulfonamide | 50 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCCNS(=O)(=O)C=1SC=CC1)C1=NC=CC=N1 | C32H34N6O7S3
